US08461179B1
A mixture of ethyl 2-(2,4-difluoro-5-nitrophenyl)acetate (16 g, 130 mmol) and 10% Pd/C (1.6 g, 1.5 mmol) in EtOAc was hydrogenated (30 psi) at RT for 12 h. The catalyst was filtered off and the filtrate was evaporated. The residue was purified by column chromatography to give ethyl 2-(5-amino-2,4-difluorophenyl)acetate (14 g, 99% yield). 1H NMR (300 MHz, DMSO-d6): δ 6.98 (t, J=9.9 Hz, 1H), 6.70 (t, J=7.8 Hz, 1H), 4.50 (s, 2H), 4.06 (m, 2H), 3.53 (s, 2H), 1.16 (t, J=6.9 Hz, 3H); MS (ESI) m/z: 216.2 [M+H]+.

reactant | ethyl 2-(2,4-difluoro-5-nitrophenyl)acetate | 130 mmol, 16 g | FC1=C(C=C(C(=C1)F)[N+](=O)[O-])CC(=O)OCC | C10H9F2NO4
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 1.5 mmol, 1.6 g | [Pd] | Pd
product | ethyl 2-(5-amino-2,4-difluorophenyl)acetate | 14 g, 99% yield | NC=1C(=CC(=C(C1)CC(=O)OCC)F)F | C10H11F2NO2
